US07435837B2
Treatment of (+)-benzyl {[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate (2.06 g, 4.81 mmol) with iodotrimethylsilane (3.85 g, 19.24 mmol) generally according to the procedure described for Example 129 gave 0.933 g (85%) of (−)-1-[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. [α]D25=−3.34 (c 10.0 in dimethylsulfoxide); mp 203-206° C.; Anal. calcd. for C15H13Cl2NOHCl: C, 54.59; H, 4.27; N, 4.24. Found: C, 53.69; H, 3.96; N, 3.99.

reactant | (+)-benzyl {[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate | 4.81 mmol, 2.06 g | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O | C23H19Cl2NO3
reactant | iodotrimethylsilane | 19.24 mmol, 3.85 g | I[Si](C)(C)C | C3H9ISi
product | (−)-1-[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.933 g, 85% | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2CC(OC21)CN | C15H13Cl2NO
